Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Levaquin
 
Attending: ___.
 
Chief Complaint:
Lethargy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old female, history of ___ disease,
lung disease, esophageal dysmotility s/p feeding tube, dementia,
who presents with concern for fever and lethargy. Patient's son
reports that she has been more lethargic over the last day,
reports that she felt subjectively cool at home to touch. Took
temperature at home, registered 99 °F, which he reports is very
unusual for her. Patient received multiple doses of Tylenol
today, which son is concerned may be masking underlying fever. 
No
sputum production or hemoptysis. Denies abdominal pain. Notes
possible foul-smelling urine. Denies notable change in bowel
movements. Denies mental status change. Denies chest pain,
shortness of breath, nausea, vomiting, change in bowel or 
bladder
function, change in vision or hearing, bruising, adenopathy, new
rash or lesion.

ED Course notable for:

Initial Vitals in the ED:
T 99.8, HR 80, BP 124/84, RR 16, Sat 95% RA
 
Exam notable for:
Gen: Tremulous, No Acute Distress
HEENT: NC/AT. EOMI. 
Neck: No swelling. Trachea is midline. No JVD
Cor: RRR. No m/r/g. 
Pulm: Minimal air movement, no clear rhonchi or wheezes.
Abd: Feeding tube in mid abdomen. No surrounding erythema or
discharge. Soft, nontender, nondistended.
Ext: No edema, cyanosis, or clubbing. 
Skin: No rashes. No skin breakdown
Neuro: Patient interactive. Tremulous. Gross sensorimotor 
intact.

Psych: Normal mentation. 
Heme: No petechia. No ecchymosis.

Relevant labs/imaging:
CXR:
IMPRESSION:  
Asymmetric edema, right upper lobe, or atypical pneumonia. 

CBC: WBC 9.7 Hgb 10.5 Hct 34.5 Plt 173
Na 143 K 4.9 Cl 100 CO2 25 BUN 19 Cr 0.5 Gluc 117
Lactate 1.9
Flu A/B negative
proBNP 371
Trop-T <0.01
UA - Lg Leuk, Trace Blood, Positive Nitr, 2 RBC, > 182 ___

Consults:
None

Patient Received:
IV CefTRIAXone 1 gm   
PO/NG Levothyroxine Sodium 25 mcg 
PO/NG Carbidopa-Levodopa (___) 2 TAB  
oral carbidopa *NF* 25 mg  
PO/NG PredniSONE 10 mg  
IH Ipratropium-Albuterol Neb  
PO/NG Carbidopa-Levodopa (___) 1.5 TAB 
PO/NG Carbidopa-Levodopa (___) 1.5 TAB 
PO/NG Lansoprazole Oral Disintegrating Tab 30 mg  
NEB Levalbuterol Neb .63 mg 

Vitals on Transfer: 

Upon arrival to the floor history obtained via patient and son.
Patient is able to answer simple questions but advanced
parkinsons limits her ability to speak. She endorses no pain at
present, no difficulty breathing. Denies dysuria at home though
son states her urine did have strong ammonia odor to it. She
confirmed that she was feeling more tired and "out of it" at 
home
than normal for her though as of this morning she has been
feeling much better. Per her son she seems to be back at her
mental status baseline. 

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.
 
Past Medical History:
___ Disease  
HTN 
HLD   
Esophageal dysmotility
Bilateral blindness  
Reactive airway disease 
Bronchitis 
Hypothyroidism 
Recurrent Aspiration s/p PEG placement 
 
Social History:
___
Family History:
Reviewed and none pertinent to this hospitalization
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
GENERAL: Alert and interactive. In no acute distress. 
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM. 
NECK: No cervical lymphadenopathy. No JVD. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Poor air movement otherwise lungs clear bilaterally
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. Has PEG in LUQ, no surrounding
erythema or drainage/bleeding.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rashes or lesions 
NEUROLOGIC: Resting tremor in all 4 extremities. Lying propped 
up
in bed, slouched to right side. Alert, oriented to self and
hospital.  

DISCHARGE PHYSICAL EXAM: 
24 HR Data (last updated ___ @ 1121)
    Temp: 98.8 (Tm 98.8), BP: 149/70 (106-149/58-71), HR: 95
(81-98), RR: 18 (___), O2 sat: 95% (92-95), O2 delivery: Ra  
GENERAL: Alert and interactive, NAD. Speech is difficult to
understand
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM. 
NECK: No cervical lymphadenopathy. No JVD. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Poor air movement otherwise lungs clear bilaterally
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. Has PEG in LUQ, no surrounding
erythema or drainage/bleeding.
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rashes or lesions 
NEUROLOGIC: Resting tremor in all 4 extremities. Lying in bed.
Alert, oriented to self, hospital. Says year is ___.
 
Pertinent Results:
ADMISSION/DISCHARGE LABS:
___ 03:37AM BLOOD WBC-9.7 RBC-3.46* Hgb-10.5* Hct-34.5 
MCV-100* MCH-30.3 MCHC-30.4* RDW-15.9* RDWSD-57.6* Plt ___
___ 06:27AM BLOOD WBC-6.7 RBC-3.31* Hgb-9.9* Hct-32.8* 
MCV-99* MCH-29.9 MCHC-30.2* RDW-15.9* RDWSD-57.7* Plt ___
___ 03:37AM BLOOD Neuts-70.6 Lymphs-18.2* Monos-7.9 Eos-2.3 
Baso-0.4 Im ___ AbsNeut-6.83* AbsLymp-1.76 AbsMono-0.76 
AbsEos-0.22 AbsBaso-0.04
___ 03:37AM BLOOD Glucose-117* UreaN-19 Creat-0.5 Na-137 
K-6.3* Cl-100 HCO3-25 AnGap-12
___ 06:27AM BLOOD Glucose-119* UreaN-21* Creat-0.5 Na-142 
K-4.3 Cl-103 HCO3-26 AnGap-13
___ 03:37AM BLOOD ALT-7 AST-69* AlkPhos-73 TotBili-0.5
___ 03:37AM BLOOD cTropnT-<0.01 proBNP-371
___ 03:37AM BLOOD Albumin-3.8 Calcium-9.3 Phos-3.8 Mg-2.3
___ 06:27AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.4
___ 03:56AM BLOOD Lactate-1.9 K-4.9

___ 3:37 am URINE     Site: NOT SPECIFIED

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      PROTEUS MIRABILIS.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PROTEUS MIRABILIS
                             |   
AMPICILLIN------------   <=2 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

BLOOD CULTURE ___ x2, NGTD

PORTABLE ABDOMENStudy Date of ___ 6:20 ___
IMPRESSION:  
There is a percutaneous gastrostomy tube projecting over the 
left upper
quadrant of the abdomen.  Evaluation for intraluminal location 
is limited by
the absence of enteric contrast.  There are no abnormally 
dilated loops of
large or small bowel.  There is redemonstration of the redundant 
loops of
sigmoid colon.  There is no free intraperitoneal air, although 
evaluation is
limited by supine technique. There are no unexplained soft 
tissue
calcifications or radiopaque foreign bodies.

CHEST (PA & LAT)Study Date of ___ 4:15 AM
IMPRESSION: 
Asymmetric edema, right upper lobe, or atypical pneumonia.
 
Brief Hospital Course:
___ with ___ disease, esophageal dysmotility, dementia, 
eactive airway disease/fibrotic lung disease who presented with 
lethargy at home, found to have likely UTI and possible 
pneumonia. She was treated with cefpodoxime and azithromycin and 
mental status improved to baseline. She was discharged home to 
complete a total of 5 days of antibiotics for UTI and possible 
CAP.

ACUTE ISSUES:
#UTI: UA with leuks and nitrites, culture grew pan-senstivie 
proteus.

#?CAP: Azithromycin added to cefpodoxime to cover for possible 
CAP. Continued home prednisone, fluticasone, and perforomist.

#Lethargy: Improved with antibiotics. Returned to baseline 
mental status at discharge.

#CODE: Full Code (presumed)
#CONTACT: ___ (Son/HCP) ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. carbidopa 25 mg oral BID 
3. Carbidopa-Levodopa (___) 1.5 TAB PO Q24H 
4. Carbidopa-Levodopa (___) 2 TAB PO Q24H 
5. Carbidopa-Levodopa (___) 2 TAB PO Q24H 
6. Carbidopa-Levodopa (___) 1.5 TAB PO Q24H 
7. Carbidopa-Levodopa (___) 1 TAB PO Q24H 
8. Carbidopa-Levodopa (___) 1 TAB PO Q24H 
9. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
10. Fluticasone Propionate 110mcg 2 PUFF IH BID 
11. Hyoscyamine 0.125 mg SL TID:PRN esophageal spasm 
12. Ipratropium Bromide Neb 1 NEB IH Q6H 
13. Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob 
14. Levothyroxine Sodium 25 mcg PO DAILY 
15. Mylanta 10 mL oral QID:PRN heartburn 
16. Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation BID 

17. Polyethylene Glycol 17 g PO DAILY 
18. PredniSONE 10 mg PO DAILY 
19. melatonin 3 mg oral QHS 
20. Acetaminophen (Liquid) 975 mg PO Q8H 
21. Multi Vitamin (multivit-minerals-ferrous fum) 9 mg iron/15 
mL oral DAILY 
22. Multivitamins W/minerals 15 mL PO DAILY 
23. Milk of Magnesia 30 mL PO Q8H 
24. Lidocaine 5% Patch 1 PTCH TD QPM Pain 
25. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
26. Ibuprofen Suspension 600 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 3 Doses 
RX *azithromycin 250 mg 1 tablet(s) G-tube Daily Disp #*3 Tablet 
Refills:*0 
2.  Cefpodoxime Proxetil 400 mg PO Q12H Duration: 7 Doses 
RX *cefpodoxime 200 mg 2 tablet(s) G-tube twice a day Disp #*14 
Tablet Refills:*0 
3.  Acetaminophen (Liquid) 975 mg PO Q8H  
4.  Atorvastatin 20 mg PO QPM  
5.  Carbidopa-Levodopa (___) 2 TAB PO Q24H  
6.  Carbidopa-Levodopa (___) 2 TAB PO Q24H  
7.  Carbidopa-Levodopa (___) 1.5 TAB PO Q24H  
8.  Carbidopa-Levodopa (___) 1 TAB PO Q24H  
9.  Carbidopa-Levodopa (___) 1 TAB PO Q24H  
10.  Carbidopa-Levodopa (___) 1.5 TAB PO Q24H  
11.  carbidopa 25 mg oral BID  
12.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
13.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
14.  Hyoscyamine 0.125 mg SL TID:PRN esophageal spasm  
15.  Ibuprofen Suspension 600 mg PO Q8H:PRN Pain - Mild  
16.  Ipratropium Bromide Neb 1 NEB IH Q6H  
17.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID  
18.  Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob  
19.  Levothyroxine Sodium 25 mcg PO DAILY  
20.  Lidocaine 5% Patch 1 PTCH TD QPM Pain  
21.  melatonin 3 mg oral QHS  
22.  Milk of Magnesia 30 mL PO Q8H  
23.  Multi Vitamin (multivit-minerals-ferrous fum) 9 mg iron/15 
mL oral DAILY  
24.  Multivitamins W/minerals 15 mL PO DAILY  
25.  Mylanta 10 mL oral QID:PRN heartburn  
26.  Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation 
BID  
27.  Polyethylene Glycol 17 g PO DAILY  
28.  PredniSONE 10 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnoses: UTI, community acquired pneumonia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for pneumonia and a urinary tract infection
 
What was done for me while I was in the hospital?  
- You were given antibiotics and you improved

What should I do when I leave the hospital?  
- You should continue taking the antibiotics for 2 more days 

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___